US04940710
1-Ethyl-6-fluoro-1,4-dihydro-7-[3-(methoxymethyl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid
A 1.7 g portion of 2-(methoxymethyl)piperazine was dissolved in 8 ml of pyridine. A 0.88 g portion of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid was added and the mixture was heated in a pressure bottle, under argon, at 120°-130° C. for 18 hours. The solvents were removed and the resulting gum evaporated three times from toluene. The residue was purified by column chromatography, eluting with chloroform:methanol saturated with water (90:10). The appropriate fractions were combined and evaporated, giving 550 mg of the desired product, mp 169°-170° C.

reactant | 2-(methoxymethyl)piperazine | COCC1NCCNC1 | C6H14N2O
reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | ClC1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C12H9ClFNO3
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl-6-fluoro-1,4-dihydro-7-[3-(methoxymethyl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid | 550 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)COC)F)=O)C(=O)O | C18H22FN3O4
